US09428452B2
4-(1,2-dihydroxy-3-morpholinopropyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide β-enantiomer)
AD-Mix-beta (249 mg, 0.178 mmol) was stirred at room temperature in tert-butanol (1.000 mL) and water (1.000 mL) until two clear phases seen. Methanesulfonamide (16.93 mg, 0.178 mmol) was added to the solution and the mixture was cooled to 0° C. (E)-N-(2,4-dimethylphenyl)-N-isobutyl-4-(3-morpholinoprop-1-en-1-yl)benzenesulfonamide (39.4 mg, 0.089 mmol) was added and the mixture was stirred vigorously at 0° C. for 60 hours, maintaining temperature throughout. After this time, additional AD-Mix-beta (249 mg, 0.178 mmol) and methanesulfonamide (16.93 mg, 0.178 mmol) were added. The reaction was stirred overnight at a maintained 0° C. A final portion of AD-Mix-beta (498 mg, 0.356 mmol) was then added and the solution was stirred overnight at a maintained 0° C. Sodium sulfite (2×11.22 mg, 0.089 mmol) was added to the solution and the mixture was stirred at room temperature for 40 minutes. Ethyl acetate (5 mL) was added to the solution and the aqueous phase extracted with further ethyl acetate (3×15 mL). The combined organic layers were washed with sodium hydroxide solution (2 M, 15 mL), dried and concentrated under vacuum. The crude material was purified by mass directed autoprep (ammonium carbonate modifier). The relevant fractions were concentrated and combined to give the desired product, 17.9 mg, of unknown enantiomeric excess (referred to herein as 3-enantiomer). LCMS [LCMS2] Rt 1.18 min, m/z (ES+) 477 (M+H).

reactant | AD-Mix-beta | 0.178 mmol, 249 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Methanesulfonamide | 0.178 mmol, 16.93 mg | CS(=O)(=O)N | CH5NO2S
reactant | (E)-N-(2,4-dimethylphenyl)-N-isobutyl-4-(3-morpholinoprop-1-en-1-yl)benzenesulfonamide | 0.089 mmol, 39.4 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)\C=C\CN1CCOCC1)CC(C)C | C25H34N2O3S
reactant | AD-Mix-beta | 0.178 mmol, 249 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 0.178 mmol, 16.93 mg | CS(=O)(=O)N | CH5NO2S
reactant | AD-Mix-beta | 0.356 mmol, 498 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Sodium sulfite | 0.089 mmol, 11.22 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | tert-butanol | 1.000 mL | C(C)(C)(C)O | C4H10O
solvent | water | 1.000 mL | O | H2O
product | 4-(1,2-dihydroxy-3-morpholinopropyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide | OC(C(CN1CCOCC1)O)C1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C25H36N2O5S
